### PR TITLE
Keccak permutation and `foldl` loops

### PR DESCRIPTION
**Pull request by mitschabaude**
* keccak permutation circuit, which applies the round function 24 times with different round constants
* foldl loop primitive, which is needed here because we apply the loop body to its own result from the last operation

### CODE REVIEW

File: Clean/Circuit/Lawful.lean [hunk 1]
```diff
@@ -195,6 +198,9 @@ example :
   ConstantLawfulCircuits add := by infer_constant_lawful_circuits
 end
 
+def ConstantLawfulCircuits.constant_output {circuit : α → Circuit F β} [Inhabited α] (lawful : ConstantLawfulCircuits circuit) :=
+  ∀ (x : α) (n : ℕ), output circuit x n = output circuit default n
```
Comment (mitschabaude) [inline Clean/Circuit/Lawful.lean:202]: Most circuits' output doesn't depend on the input, and assuming this simplifies foldl a lot

File: Clean/Circuit/Loops.lean [hunk 2]
```diff
@@ -113,6 +130,70 @@ instance ConstantLawfulCircuit.from_mapM_vector {circuit : α → Circuit F β}
...
+    simp only [ConstantLawfulCircuits.offset_independent]
+    ring
+
+instance ConstantLawfulCircuits.from_foldlM_vector [Inhabited β] {circuit : β → α → Circuit F β}
+  (xs : Vector α m) (lawful : ConstantLawfulCircuits fun (acc, x) => circuit acc x) :
+    ConstantLawfulCircuits (xs.foldlM circuit) where
+
+  output init n := Fin.foldl m (fun acc i => lawful.output (acc, xs[i]) (n + lawful.local_length * i)) init
+  local_length := lawful.local_length * m
+  operations init n :=
```
Comment (mitschabaude) [inline Clean/Circuit/Loops.lean:156]: found a much simpler way to define the operations here compared to what we did for 'map'

File: Clean/Circuit/Loops.lean [hunk 3]
```diff
@@ -312,15 +393,127 @@ theorem mapFinRangeM_forAll {n : ℕ} {circuit : Fin m → Circuit F β} [lawful
...
     (_lawful : ConstantLawfulCircuits body := by infer_constant_lawful_circuits) : Circuit F (Vector β m) :=
   Vector.mapFinRangeM m body
 
+def map {m : ℕ} [Nonempty β] (xs : Vector α m) (body : α → Circuit F β)
+    (_lawful : ConstantLawfulCircuits body := by infer_constant_lawful_circuits) : Circuit F (Vector β m) :=
+  xs.mapM body
+
+def foldl {m : ℕ} [Inhabited β] [Inhabited α] (xs : Vector α m) (init : β) (body : β → α → Circuit F β)
+  (lawful : ConstantLawfulCircuits (fun (s, a) => body s a) := by infer_constant_lawful_circuits)
+  (_h_const_out : lawful.constant_output := by
```
Comment (mitschabaude) [inline Clean/Circuit/Loops.lean:511]: Always assuming this 'constant output' property for now, I hope we'll never need foldl without that

File: Clean/Gadgets/Keccak/Permutation.lean [hunk 4]
```diff
@@ -0,0 +1,127 @@
+import Clean.Gadgets.Keccak.KeccakRound
+import Clean.Specs.Keccak256
+
+namespace Gadgets.Keccak256.Permutation
+variable {p : ℕ} [Fact p.Prime] [Fact (p > 2^16 + 2^8)]
+open Specs.Keccak256
+
+def main (state : Var KeccakState (F p)) : Circuit (F p) (Var KeccakState (F p)) :=
+  .foldl roundConstants state
+    fun state rc => subcircuit (KeccakRound.circuit rc) state
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Permutation.lean:10]: The new gadget!

File: Clean/Gadgets/Keccak/Permutation.lean [hunk 5]
```diff
@@ -0,0 +1,127 @@
...
+  out_state.is_normalized
+  ∧ out_state.value = keccak_f state.value
+
+/-- state in the ith round, starting from offset n -/
+def state_var (n : ℕ) (i : ℕ) : Var KeccakState (F p) :=
+  Vector.mapRange 25 (fun j => var_from_offset U64 (n + i * 1528 + j * 16 + 1128))
+  |>.set 0 (var_from_offset U64 (n + i * 1528 + 1520))
+
+-- NOTE: this linter times out and blows up memory usage
+set_option linter.constructorNameAsVariable false
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Permutation.lean:24]: I don't know what's up with that, but trying to do proofs here was a nightmare before I disabled this, almost crashed my computer many times

File: Clean/Gadgets/Keccak/Permutation.lean [hunk 6]
```diff
@@ -0,0 +1,127 @@
...
+-- set_option maxHeartbeats 800000
+
+def circuit : FormalCircuit (F p) KeccakState KeccakState where
+  assumptions
+  spec
+  soundness
+  -- TODO why does this time out??
+  -- TODO: `inferInstance` in `FormalCircuit` might be slow, shouldn't be necessary in latest Lean
+  -- completeness
+  completeness := by sorry
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Permutation.lean]: Even though I proved completeness, this currently crashes :(

Comment (gio54321) [reply Clean/Gadgets/Keccak/Permutation.lean]: This works, not sure what is going on
```lean
def circuit : FormalCircuit (F p) KeccakState KeccakState := {
  elaborated with
  assumptions
  spec
  soundness
  completeness := by simp only [completeness]
}
```

**Review by gio54321 — APPROVED** [review]
LGTM, very nice

File: Clean/Gadgets/Keccak/Permutation.lean (hunk 6 above)
Comment (mitschabaude) [reply Clean/Gadgets/Keccak/Permutation.lean]: nice find!
